US05723458
(a) (+-)-Ethyl-4-(hydroxymethyl)-2-oxazolidinone
Sodium methoxide (2.2 g, Aldrich) was added to a solution of 2-amino-2-ethyl-1,3-propanediol (100.0 g, Aldrich) and diethyl carbonate (169.0 g, Aldrich) This solution was refluxed in a Dean Stark apparatus until no more EtOH was collected. The reaction mixture was cooled, added acetone (200 ml) and allowed to stand overnite at room temperature. The resulting suspension was filtered to give 81.0 g of the desired product as a beige solid. 1H NMR consistent with the proposed structure.

reactant | 2-amino-2-ethyl-1,3-propanediol | 100.0 g | NC(CO)(CO)CC | C5H13NO2
reactant | diethyl carbonate | 169.0 g | C(OCC)(OCC)=O | C5H10O3
reactant | EtOH | CCO | C2H6O
catalyst | Sodium methoxide | 2.2 g | C[O-].[Na+]
product | (+-)-Ethyl-4-(hydroxymethyl)-2-oxazolidinone | 81.0 g | C(C)N1C(OCC1CO)=O | C6H11NO3
